US07476663B2
(d) 3-methyl-4-(2-oxo-[1,3]oxazepan-3-yl)-aniline
Prepared analogously to Example 40b from 3-methyl-4-(2-oxo-[1,3]oxazepan-3-yl)-1-nitro-benzene with palladium-charcoal under a hydrogen atmosphere in THF.

reactant | 3-methyl-4-(2-oxo-[1,3]oxazepan-3-yl)-1-nitro-benzene | CC=1C=C(C=CC1N1C(OCCCC1)=O)[N+](=O)[O-] | C12H14N2O4
solvent | THF | C1CCOC1 | C4H8O
catalyst | palladium-charcoal | [Pd] | Pd
product | 3-methyl-4-(2-oxo-[1,3]oxazepan-3-yl)-aniline | CC=1C=C(N)C=CC1N1C(OCCCC1)=O | C12H16N2O2
